US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 2-(4-benzylpiperidino)-5-methoxybenzonitrile (99 mg), and the resulting crude product was purified on TLC (developer, hexane: ethyl acetate=2:1) to provide 2-(4-benzylpiperidino)-5-hydroxy-benzonitrile (40 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 2-(4-benzylpiperidino)-5-methoxybenzonitrile | 99 mg | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C#N)C=C(C=C1)OC | C20H22N2O
product | 2-(4-benzylpiperidino)-5-hydroxy-benzonitrile | 40 mg | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C#N)C=C(C=C1)O | C19H20N2O
